US08124636B2
To a solution of (rac)-2-formyl-2-methyl-pyrrolidine-1-carboxylic acid tert-butyl ester (0.7 g, 1 eq) and 2-chloro-benzylamine (1.2 eq) in DCE (20 mL) was added acetic acid (0.8 eq) and allowed to stir for 20 minutes followed by the addition of sodium triacetoxyborohydride (2 eq). The reaction mixture was stirred for 12 h. After completion of reaction on TLC, the reaction was quenched with water and extracted with DCM (3×50 mL). The organic layer was dried over anhydrous Na2SO4 and concentrated using rotary evaporator to give sticky crude product, which was then purified with column chromatography (2-5% Methanol:DCM, Mesh Size-100-200 silica, Diameter of column—3.0 cm, Height of silica—approx. 4 inch) to afford the desired (rac)-2-[(2-chloro-benzylamino)-methyl]-2-methyl-pyrrolidine-1-carboxylic acid tert-butyl ester as a sticky solid (40-70%).

reactant | (rac)-2-formyl-2-methyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.7 g, 1 eq | C(C)(C)(C)OC(=O)N1C(CCC1)(C)C=O | C11H19NO3
reactant | 2-chloro-benzylamine | 1.2 eq | ClC1=C(CN)C=CC=C1 | C7H8ClN
reactant | acetic acid | 0.8 eq | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 2 eq | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCE | 20 mL | ClCCCl | C2H4Cl2
product | (rac)-2-[(2-chloro-benzylamino)-methyl]-2-methyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 40-70% | C(C)(C)(C)OC(=O)N1C(CCC1)(C)CNCC1=C(C=CC=C1)Cl | C18H27ClN2O2
